US06953812B2
Building block 10: 4-Cyclohexylcyclohexylamine
A mixture of 2-methyl-cyclohexanone (112 g, 1.0 mol), aniline (186 g, 2 mol) and ethanol (26 mL) was stirred at room temperature and 12 M hydrochloric acid (167 mL) was added during 30 min. The dark yellow solution was refluxed at 85° C. for seven days. The solution was cooled and diluted with ethyl acetate. The mixture was stirred in an ice bath and made alkaline (pH=9) with a 27% sodium hydroxide solution, keeping the temperature below 30° C.

reactant | 2-methyl-cyclohexanone | 1.0 mol, 112 g | CC1C(CCCC1)=O | C7H12O
reactant | aniline | 2 mol, 186 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 12 M, 167 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 26 mL | C(C)O | C2H6O
product | 4-Cyclohexylcyclohexylamine | C1(CCCCC1)C1CCC(CC1)N | C12H23N
